US07560558B2
3-Hydroxynaphthalene-2-carboxylic acid methoxymethylamide (600 mg) was dissolved in tetrahydrofuran (36 ml) to prepare a solution. A solution (9.8 ml) of 0.93 M methylmagnesium bromide in tetrahydrofuran was added thereto at −78° C., temperature of the mixture was raised to room temperature, and the mixture was stirred for 1.5 hr. A saturated aqueous ammonium chloride solution was added to stop the reaction, water was added thereto, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with an aqueous potassium carbonate solution, was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-ethyl acetate to give 1-(3-hydroxynaphthalen-2-yl)-ethanone (378 mg, yield 78%).

reactant | 3-Hydroxynaphthalene-2-carboxylic acid methoxymethylamide | 600 mg | COCNC(=O)C1=CC2=CC=CC=C2C=C1O | C13H13NO3
reactant | methylmagnesium bromide | 0.93 M, 9.8 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
product | 1-(3-hydroxynaphthalen-2-yl)-ethanone | 378 mg, yield 78% | OC=1C(=CC2=CC=CC=C2C1)C(C)=O | C12H10O2
